US04959381
N-[6-[2-(2-Pyridinyl)ethoxy]hexyl]benzenemethanamine
2-[2-[(6-Bromohexyl)oxy]ethyl]pyridine (6.3 g) was added to benzylamine (20 ml) at 140° under nitrogen. After 1 h at 140° the reaction mixture was cooled and partitioned between 2M sodium hydroxide (100 ml) and ether (100 ml). The organic layer was washed with water and brine, dried and concentrated to a yellow oil. The excess benzylamine was removed by distillation under reduced pressure to leave the title compound as a yellow oil (6.8 g), t.l.c. (toluene-ethanol-0.88 ammonia 80:20:2) Rf 0.44.

reactant | 2-[2-[(6-Bromohexyl)oxy]ethyl]pyridine | 6.3 g | BrCCCCCCOCCC1=NC=CC=C1 | C13H20BrNO
reactant | benzylamine | 20 ml | C(C1=CC=CC=C1)N | C7H9N
product | N-[6-[2-(2-Pyridinyl)ethoxy]hexyl]benzenemethanamine | 6.8 g | N1=C(C=CC=C1)CCOCCCCCCNCC1=CC=CC=C1 | C20H28N2O
